**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on May 10, 01
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
.SUBCKT irf1310ns 1 2 3
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS (LEVEL=1 IS=1e-32
+VTO=3.81662 LAMBDA=0 KP=31.503
+CGSO=1.73184e-05 CGDO=1.78065e-07)
RS 8 3 0.0154431
D1 3 1 MD
.MODEL MD D (IS=4.48292e-14 RS=0.00438827 N=0.90279 BV=100
+IBV=0.00025 EG=1 XTI=1 TT=0
+CJO=1.35671e-09 VJ=0.5 M=0.414364 FC=0.5)
RDS 3 1 1e+06
RD 9 1 0.00809762
RG 2 7 4.21829
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D (IS=1e-32 N=50
+CJO=2.84991e-09 VJ=0.5 M=0.724105 FC=1e-08)
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D (IS=1e-10 N=0.400343 RS=3e-06)
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 4.67195e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D (IS=1e-10 N=0.400343)
.ENDS irf1310ns
